US06514996B2
(Step A) 7-Methoxy-spiro[1,3-benzodioxole-2,1′-cyclopentane] (Compound IIax-a)
A mixture of 3-methoxycatechol (22.6 g), cyclopentanone (27.1 g), methyl orthoformate (34.2 g), p-toluenesulfonic acid.monohydrate (0.2 g), and benzene (300 ml) was heated under reflux for 24 hours. After being allowed to stand for cooling, a dilute solution of sodium hydroxide was added to the mixture followed by extraction with ether. The organic layer was washed with a saturated saline and dried over anhydrous potassium carbonate. The solvent was distilled off under reduced pressure to give Compound IIax-a (30 g, 90%) as a colorless oily substance.

reactant | 3-methoxycatechol | 22.6 g | COC1=C(C(O)=CC=C1)O | C7H8O3
reactant | cyclopentanone | 27.1 g | C1(CCCC1)=O | C5H8O
reactant | methyl orthoformate | 34.2 g | C(OC)([O-])[O-]
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 7-Methoxy-spiro[1,3-benzodioxole-2,1′-cyclopentane] | COC1=CC=CC2=C1OC1(CCCC1)O2 | C12H14O3
